US07915443B2
(S)-Ethyl {N-[(5-bromopyridin-3-yl)carbonyl]-S-phenylsulfonimidoyl}acetate
To a solution of 5-bromonicotinic acid (343 mg, 1.66 mmol) in anhydrous DMF (5.5 mL) was added N,N-diisopropylethylamine (0.58 mL, 3.32 mmol) and ethyl(S-phenylsulfonimidoyl)acetate (415 mg, 1.83 mmol) followed by the final addition of (benzotriazol-1-yloxy)-tris(dimethylamino)-phosphonium hexafluorophosphate (0.81 g, 1.83 mmol). The reaction mixture was stirred at room temperature for 20 min, and then partitioned between saturated aqueous NaHCO3 and EtOAc. The organic layer was separated and washed once with brine and dried over anhydrous Na2SO4. The organic layer was concentrated and the residue purified by chromatography (silica gel, gradient elution (5:1 Hexane/EtOAc to 3:1 Hexane/EtOAc). The product containing fractions were concentrated to give the title compound as a white solid (230 mg, 34%).

reactant | 5-bromonicotinic acid | 1.66 mmol, 343 mg | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | N,N-diisopropylethylamine | 3.32 mmol, 0.58 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl(S-phenylsulfonimidoyl)acetate | 1.83 mmol, 415 mg | C(C)OC(CS(=O)(=N)C1=CC=CC=C1)=O | C10H13NO3S
reactant | (benzotriazol-1-yloxy)-tris(dimethylamino)-phosphonium hexafluorophosphate | 1.83 mmol, 0.81 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 5.5 mL | CN(C)C=O | C3H7NO
product | (S)-Ethyl {N-[(5-bromopyridin-3-yl)carbonyl]-S-phenylsulfonimidoyl}acetate | 230 mg, 34% | BrC=1C=C(C=NC1)C(=O)N=[S@@](=O)(C1=CC=CC=C1)CC(=O)OCC | C16H15BrN2O4S
